US09399636B2
Step 2: tert-butyl 3-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)azetidine-1-carboxylate
To a suspension of tert-butyl 3-(2,6-dichloro-4-pyridyl)azetidine-1-carboxylate (1-a, 472 mg, 1.557 mmol), 3,3-difluoropyrrolidine hydrochloride (1.12 g, 5.0 equiv., 7.784 mmol) in NMP (3.0 mL, 31 mmol) in a microwave vial was added DIPEA (1.90 mL, 7.0 equiv., 10.90 mmol)), and the reaction was maintained at 140° C. for 30 min and then at 150° C. for 30 min in the microwave machine. LCMS showed more than 95% conversion. The crude was used without further treatment. LCMS: m/z 374 (M+H).

reactant | tert-butyl 3-(2,6-dichloro-4-pyridyl)azetidine-1-carboxylate | 1.557 mmol, 472 mg | ClC1=NC(=CC(=C1)C1CN(C1)C(=O)OC(C)(C)C)Cl | C13H16Cl2N2O2
reactant | 3,3-difluoropyrrolidine hydrochloride | 7.784 mmol, 1.12 g, 5.0 equiv. | Cl.FC1(CNCC1)F
reactant | NMP | 31 mmol, 3.0 mL | CN1CCCC1=O | C5H9NO
reactant | DIPEA | 10.90 mmol, 1.90 mL, 7.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
product | tert-butyl 3-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)azetidine-1-carboxylate | ClC1=NC(=CC(=C1)C1CN(C1)C(=O)OC(C)(C)C)N1CC(CC1)(F)F | C17H22ClF2N3O2
